US07560551B2
A pressure bottle was charged with 4-aminophenol (0.453 g, 0.416 mmol), 1-chloro-4-phenylphthalazine (1.00 g, 0.416 mmol) and 16.8 mL of benzene. The bottle was sealed and heated to 100° C. for 25 h. The reaction mixture was concentrated. The crude material was dissolved in methanol and was purified by Gilson reverse phase liquid chromatography, 5-75% ACN/H2O/0.1% TFA over 14 min. The product-containing fractions were combined, brought to basic pH by addition of 1M NaHCO3, and extracted with dichloromethane. The organic portion was dried with MgSO4, filtered and concentrated to provide 4-(4-phenylphthalazin-1-ylamino)phenol as a yellow solid. MS m/z=314 [M+H]+. Calc'd for C20H15N3O: 313.35.

reactant | 4-aminophenol | 0.416 mmol, 0.453 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | 1-chloro-4-phenylphthalazine | 0.416 mmol, 1.00 g | ClC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C14H9ClN2
solvent | benzene | 16.8 mL | C1=CC=CC=C1 | C6H6
product | 4-(4-phenylphthalazin-1-ylamino)phenol | C1(=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)O | C20H15N3O
